US09216988B2
To a solution of tert-butyl N-[(4-bromo-2-hydroxy-phenyl)methyl]-N-(2-hydroxyethyl)carbamate (3 g, 8.67 mmol) and triphenylphosphine (3.4 g, 13.0 mmol) in dichloromethane (85 mL) was added diisopropyl azodicarboxylate (2.69 g, 13.0 mmol) and the reaction was stirred at ambient temperature for 12 hours. The reaction was then washed with water, brine, dried with MgSO4 and purified by silica gel column chromatography (0-40% EtOAc in heptane) to give tert-butyl 8-bromo-2,3-dihydrobenzo[f][1,4]oxazepine-4(5H)-carboxylate (2.45 g, 86% yield). LCMS (m/z) ES+ 328 [M+1]+.

reactant | tert-butyl N-[(4-bromo-2-hydroxy-phenyl)methyl]-N-(2-hydroxyethyl)carbamate | 8.67 mmol, 3 g | BrC1=CC(=C(C=C1)CN(C(OC(C)(C)C)=O)CCO)O | C14H20BrNO4
reactant | triphenylphosphine | 13.0 mmol, 3.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 13.0 mmol, 2.69 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 85 mL | ClCCl | CH2Cl2
product | tert-butyl 8-bromo-2,3-dihydrobenzo[f][1,4]oxazepine-4(5H)-carboxylate | 2.45 g, 86% yield | BrC1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C14H18BrNO3
